### PR TITLE
[Merged by Bors] - feat: Monovariance under algebraic operations

### PR DESCRIPTION
**Pull request by YaelDillies**
Prove a bunch of results relating `monovary` to algebraic operations in ordered groups.

---

- [x] depends on: #7647

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Monovary.lean [hunk 1]
```diff
@@ -0,0 +1,428 @@
...
+/-- Two functions monovary iff the rearrangement inequality holds. -/
+lemma monovaryOn_iff_mul_rearrangement :
+    MonovaryOn f g s ↔
+      ∀ ⦃i⦄, i ∈ s → ∀ ⦃j⦄, j ∈ s → f i * g j + f j * g i ≤ f i * g i + f j * g j := by
+  simp only [smul_eq_mul, monovaryOn_iff_smul_rearrangement]
+
+/-- Two functions antivary iff the rearrangement inequality holds. -/
+lemma antivaryOn_iff_mul_rearrangement :
+    AntivaryOn f g s ↔
+      ∀ ⦃i⦄, i ∈ s → ∀ ⦃j⦄, j ∈ s → f i • g i + f j • g j ≤ f i • g j + f j • g i := by
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Monovary.lean:406]: These might as well be `mul` rather than `smul`?

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Monovary.lean]: Whoops, typo indeed

File: Mathlib/Algebra/Order/Monovary.lean [hunk 2]
```diff
@@ -0,0 +1,428 @@
...
+@[to_additive] alias ⟨AntivaryOn.of_inv, AntivaryOn.inv⟩ := antivaryOn_inv
+@[to_additive] alias ⟨Monovary.of_inv_left, Antivary.inv_left⟩ := monovary_inv_left
+@[to_additive] alias ⟨Antivary.of_inv_left, Monovary.inv_left⟩ := antivary_inv_left
+@[to_additive] alias ⟨Monovary.of_inv_right, Antivary.inv_right⟩ := monovary_inv_right
+@[to_additive] alias ⟨Antivary.of_inv_right, Monovary.inv_right⟩ := antivary_inv_right
+@[to_additive] alias ⟨Monovary.of_inv, Monovary.inv⟩ := monovary_inv
+@[to_additive] alias ⟨Antivary.of_inv, Antivary.inv⟩ := antivary_inv
+
+@[to_additive] lemma MonovaryOn.mul_left (h₁ : MonovaryOn f₁ g s) (h₂ : MonovaryOn f₂ g s) :
+    MonovaryOn (f₁ * f₂) g s := fun _i hi _j hj hij ↦ mul_le_mul' (h₁ hi hj hij) $ h₂ hi hj hij
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Monovary.lean:77]:
```suggestion
    MonovaryOn (f₁ * f₂) g s := fun _i hi _j hj hij ↦ mul_le_mul' (h₁ hi hj hij) <| h₂ hi hj hij
```

Comment (b-mehta) [reply Mathlib/Algebra/Order/Monovary.lean:77]: and below. I think `mul_le_mul' (h₁ hi hj hij) (h₂ hi hj hij)` looks nicer here because of the symmetry, but that's up to you.

File: Mathlib/Algebra/Order/Monovary.lean [hunk 3]
```diff
@@ -0,0 +1,428 @@
...
+
+end OrderedCommGroup
+
+section LinearOrderedCommGroup
+variable [OrderedCommGroup α] [LinearOrderedCommGroup β] {s : Set ι} {f f₁ f₂ : ι → α}
+  {g g₁ g₂ : ι → β}
+
+@[to_additive] lemma MonovaryOn.mul_right (h₁ : MonovaryOn f g₁ s) (h₂ : MonovaryOn f g₂ s) :
+    MonovaryOn f (g₁ * g₂) s :=
+  fun _i hi _j hj hij ↦ (lt_or_lt_of_mul_lt_mul hij).elim (h₁ hi hj) $ h₂ hi hj
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Monovary.lean:124]: Does this really need linearity of the order? It feels true without that...

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Monovary.lean:124]: `hij` has type `g₁ i * g₂ i < g₁ j * g₂ j`. You can't really do anything with that if you don't have linearity.

**Review by b-mehta — APPROVED** [review]
bors merge
